US06982348B2
1) benzyl 4-(pyridin-3-yloxy)benzoate
To a solution of benzyl 4-hydroxybenzoate (25.0 g, 110 mmol) in N,N-dimethylformamide (60 ml) was added potassium tert-butoxide (12.3 g, 110 mmol), and the mixture was stirred at room temperature for 1 hr. The reaction solution was evaporated under reduced pressure, and 3-bromopyridine (25.0 g, 110 mmol), a copper powder (1.76 g, 27.2 mmol) and N,N-dimethylformamide (80 ml) were added. The mixture was stirred at 120° C. for 8 hrs. The reaction solution was filtered with celite and the filtrate was evaporated under reduced pressure. To the residue was added water (500 ml) and the mixture was extracted with ethyl acetate (500 ml). The extract was washed successively with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1-2:1) to give the objective substance (18.0 g, 54%, crude).

reactant | benzyl 4-hydroxybenzoate | 110 mmol, 25.0 g | OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H12O3
reactant | potassium tert-butoxide | 110 mmol, 12.3 g | CC(C)([O-])C.[K+]
reactant | 3-bromopyridine | 110 mmol, 25.0 g | BrC=1C=NC=CC1 | C5H4BrN
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
catalyst | copper | 27.2 mmol, 1.76 g | [Cu] | Cu
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | benzyl 4-(pyridin-3-yloxy)benzoate | N1=CC(=CC=C1)OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C19H15NO3
